US07829665B2
(2R,6S,13aS,14aR,16aS,Z)-6-(tert-butoxycarbonylamino)-2-(4-fluoroisoindoline-2-carbonyloxy)-5,16-dioxo-2,3,5,6,7,8,9,11,13a,14,14a,15,16,16a-tetradecahydro-1H-cyclopropa(e)pyrrolo[2,1-i][1,7,10]oxadiazacyclopentadecine-14a-carboxylic acid (0.10 g, 0.16 mmol) in toluene (3 mL) was added di(1H-imidazol-1-yl)methanone (0.036 g, 0.22 mmol) in rt. The reaction was stirred at 60° C. for 3 hrs. Cyclopropanesulfonamide (0.035 g, 0.29 mmol) was added, followed by addition of DBU (0.043 ml, 0.29 mmol). The reaction was then stirred at rt for 17 hrs. Water (5 mL) was added and acidified with saturated potassium hydrogen sulfate until pH=2˜3. The mixture was extracted with ethyl acetate (20 mL), washed with brine and dried over sodium sulfate. After removal of solvent, the residue was purified by chromatography (Ethyl acetate) to give (2R,6S,13aS,14aR,16aS,Z)-6-(tert-butoxycarbonylamino)-14a-(cyclopropylsulfonylcarbamoyl)-5,16-dioxo-2,3,5,6,7,8,9,11,13a,14,14a,15,16,16a-tetradecahydro-1H-cyclopropa(e)pyrrolo[2,1-i][1,7,10]oxadiazacyclopentadecin-2-yl 4-fluoroisoindoline-2-carboxylate as white solid (0.064 g, 55%). MS: Calcd.: 733; Found: [M+H]+ 734. 1H NMR (400 MHz, d6-DMSO) δ11.14 (s, 1H), 8.68 & 8.59 (s, 1H), 7.34 (m, 1H), 7.08-7.25 (m, 3H), 5.64 (m, 1H), 5.30 (m, 2H), 4.67 (s, 4H), 4.43 (m, 2H), 4.27 (m, 1H), 3.95 (m, 1H), 3.74 (m, 1H), 3.52 (m, 1H), 3.37 (m, 2H), 2.91 (m, 1H), 2.36 (m, 2H), 2.28 (m, 2H), 1.79 (m, 1H), 1.52-1.70 (m, 3H), 1.24 (m, 2H), 1.19 (m, 1H), 1.01-1.19 (m, 1H).

reactant | (2R,6S,13aS,14aR,16aS,Z)-6-(tert-butoxycarbonylamino)-2-(4-fluoroisoindoline-2-carbonyloxy)-5,16-dioxo-2,3,5,6,7,8,9,11,13a,14,14a,15,16,16a-tetradecahydro-1H-cyclopropa(e)pyrrolo[2,1-i][1,7,10]oxadiazacyclopentadecine-14a-carboxylic acid | 0.16 mmol, 0.10 g | C(C)(C)(C)OC(=O)N[C@@H]1C(N2[C@H](C(N[C@]3([C@H](\C=C/COCCC1)C3)C(=O)O)=O)C[C@H](C2)OC(=O)N2CC3=CC=CC(=C3C2)F)=O | C31H39FN4O9
reactant | di(1H-imidazol-1-yl)methanone | 0.22 mmol, 0.036 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | Cyclopropanesulfonamide | 0.29 mmol, 0.035 g | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | DBU | 0.29 mmol, 0.043 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | 5 mL | O | H2O
product | (2R,6S,13aS,14aR,16aS,Z)-6-(tert-butoxycarbonylamino)-14a-(cyclopropylsulfonylcarbamoyl)-5,16-dioxo-2,3,5,6,7,8,9,11,13a,14,14a,15,16,16a-tetradecahydro-1H-cyclopropa(e)pyrrolo[2,1-i][1,7,10]oxadiazacyclopentadecin-2-yl 4-fluoroisoindoline-2-carboxylate | 0.064 g, 55% | FC1=C2CN(CC2=CC=C1)C(=O)O[C@@H]1C[C@H]2C(N[C@]3([C@H](\C=C/COCCC[C@@H](C(N2C1)=O)NC(=O)OC(C)(C)C)C3)C(NS(=O)(=O)C3CC3)=O)=O | C34H44FN5O10S
